US04259336
4-Hydroxy-2-methyl-N-(5-methyl-2-thiazolyl)-2H-[1]benzothieno[2,3-e]-1,2-thiazine-3-carboxamide-1,1-dioxide
Prepared analogous to Example 1 from methyl 4-hydroxy-2-methyl-2H-[1]benzothieno[2,3-e]-1,2-thiazine-3-carboxylate-1,1-dioxide and 5-methyl-2-thiazolamine with a yield of 46% of theory.

reactant | methyl 4-hydroxy-2-methyl-2H-[1]benzothieno[2,3-e]-1,2-thiazine-3-carboxylate-1,1-dioxide | OC1=C(N(S(C2=C1SC1=C2C=CC=C1)(=O)=O)C)C(=O)OC | C13H11NO5S2
reactant | 5-methyl-2-thiazolamine | CC1=CN=C(S1)N | C4H6N2S
product | 4-Hydroxy-2-methyl-N-(5-methyl-2-thiazolyl)-2H-[1]benzothieno[2,3-e]-1,2-thiazine-3-carboxamide-1,1-dioxide | yield of 46% | OC1=C(N(S(C2=C1SC1=C2C=CC=C1)(=O)=O)C)C(=O)NC=1SC(=CN1)C | C16H13N3O4S3
